US06350907B1
2-Methyl-4-nitro-1-phenylbenzene (12.7 gm, 60 mmol) was dissolved in ethanol (260 mL) and hydrogenated over 10% palladium on charcoal (1.27gm) at 3 bar and 20° C. for 2 h. The mixture was filtered through Arbocel filter aid, washing with ethyl acetate. The filtrate was concentrated under reduced pressure to give 4-amino-2-methyl-1-phenylbenzene (10.49 gm, 95%) as a pinkish brown oil.

reactant | 2-Methyl-4-nitro-1-phenylbenzene | 60 mmol, 12.7 gm | CC1=C(C=CC(=C1)[N+](=O)[O-])C1=CC=CC=C1 | C13H11NO2
solvent | ethanol | 260 mL | C(C)O | C2H6O
catalyst | palladium on charcoal | 1.27gm | [Pd] | Pd
product | 4-amino-2-methyl-1-phenylbenzene | 10.49 gm, 95% | NC1=CC(=C(C=C1)C1=CC=CC=C1)C | C13H13N
